US09023840B2
Step 7: 4-(1H-pyrazol-4-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine
A mixture of 4-bromo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine (1.63 g, 4.98 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (1.61 g, 5.48 mmol, Aldrich: Cat. #632732), tetrakis(triphenylphosphine)palladium(0) (288 mg, 0.249 mmol) and sodium carbonate (1.58 g, 14.9 mmol) in 1,4-dioxane (16.0 mL) and water (8.0 mL) was stirred at 110° C. for 2 hours. After cooling, the mixture was diluted with ethyl acetate, and washed with water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was treated with ether, filtered and washed with ether to afford the desired product (1.08 g, 69%) which was directly used in next step reaction without further purification. LCMS (M+H)+: m/z=315.1.

reactant | 4-bromo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine | 4.98 mmol, 1.63 g | BrC1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C13H19BrN2OSi
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 5.48 mmol, 1.61 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
reactant | sodium carbonate | 14.9 mmol, 1.58 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 16.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 8.0 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.249 mmol, 288 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(1H-pyrazol-4-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine | 1.08 g, 69% | N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C16H22N4OSi
